US08138217B2
3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-1H-thieno[2,3-c]pyrazole-5-carboxylic acid hydrochloride
A mixture of tert-butyl 3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-1H-thieno[2,3-c]pyrazole-5-carboxylate (0.50 g, 1.1 mmol) in hydrochloric acid 4M in dioxane (15 mL) was stirred for 16 hours at room temperature. Afterward, volatiles were removed by evaporation under reduced pressure and the residue was triturated with ethyl ether to give 0.496 g of the title compound as a white solid.

reactant | tert-butyl 3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-1H-thieno[2,3-c]pyrazole-5-carboxylate | 1.1 mmol, 0.50 g | CN1CCN(CC1)C1=CC=C(C(=O)NC=2C3=C(NN2)SC(=C3)C(=O)OC(C)(C)C)C=C1 | C22H27N5O3S
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-1H-thieno[2,3-c]pyrazole-5-carboxylic acid hydrochloride | 0.496 g | Cl.CN1CCN(CC1)C1=CC=C(C(=O)NC=2C3=C(NN2)SC(=C3)C(=O)O)C=C1 | InChI=1S/C18H19N5O3S.ClH/c1-22-6-8-23(9-7-22)12-4-2-11(3-5-12)16(24)19-15-13-10-14(18(25)26)27-17(13)21-20-15;/h2-5,10H,6-9H2,1H3,(H,25,26)(H2,19,20,21,24);1H
